2137-09-22 05:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   HCT/Hb stable.
   blood chem hemolyzed and difficult to interpret, but also difficult
   stick
   Allergies:
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Succinylcholine
   Malignant Hyper
   Clozaril (Oral) (Clozapine)
   Unknown;
   Calcium Channel Blocking [**Name (NI) 4424**]
   Bradycardia (pt
   [**Name (NI) 4425**] Blocking Agents
   [**Name (NI) 4426**] pt
   [**Name (NI) 278**] dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-22**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   10.1 g/dL
   76 mg/dL
   5.3 mg/dL
   24 mEq/L
   5.7 mEq/L
   41 mg/dL
   106 mEq/L
   140 mEq/L
   32.1 %
   3.3 K/uL
        [image002.jpg]
   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [1][**2137-9-21**] 05:52PM
                                    3.3*
                                    3.33*
                                    10.1*
                                    32.1*
                                     96
                                    30.4
                                    31.6
                                    15.1
                                     187
   [2][**2137-9-21**] 06:50AM
                                    3.3*
                                    3.42*
                                    10.5*
                                    33.8*
                                     99*
                                    30.6
                                    31.0
                                    15.8*
                                     168
   [3][**2137-9-21**] 12:19AM
                                     5.1
                                    3.39*
                                    10.4*
                                    32.2*
                                     95
                                    30.7
                                    32.3
                                    15.2
                                     170
                             [**2137-9-21**]  12:19 AM
                             [**2137-9-21**]  06:50 AM
                             [**2137-9-21**]  02:00 PM
                             [**2137-9-21**]  05:52 PM
   WBC
   5.1
   3.3
   3.3
   Hct
   32.2
   33.8
   30.5
   32.1
   Plt
   170
   168
   187
   Cr
   4.2
   5.3
   Glucose
   83
   76
   Other labs: PT / PTT / INR:16.0/27.0/1.4, Ca++:9.8 mg/dL, Mg++:2.0
   mg/dL, PO4:2.9 mg/dL T4 1.3 (NL)
   Assessment and Plan
   This is a 37 year old female with schizoaffective d/o, depression,
   seizure d/o, ESRD from IGA nephropathy, very poor access with
   transhepatic HD catheter on coumadin admitted for UGIB.
   # UGIB:  Patient with recent hx of UGIB, found to have esophagitis and
   visible vessel in esophagus which was clipped.  Patient now represents
   with coffee ground emesis, likley from bleeding vessel.  GI has seen
   patient in the ED and recommends IR embolization, however, patient with
   no active bleeding at this time and is hemodynamically stable. Of note,
   PTT high, unclear why so high.
   - q6h HCT WNL
   - IV PPI [**Hospital1 **], sucralfate
   - f/u GI recs -> suggested liquid only meds. no scope yesterday
   Possible scope today or tomorrow.
   - transfuse as needed if Hct <30
   - no access at this time, will use HD line if necessary
   # ESRD on HD. HD M/W/F.
   - received HD Friday
   - contact Renal re HD on [**Name (NI) 570**]
   # History of respiratory failure s/p trach.
   - consider trach removal after a bronch to see if still edematous but
   only after hemodynamically stable.
   # Hypothroidism. Continue home regimen IV ([**2-6**] home dose).
   # Schizoaffective disorder/depression: hold fluphenazine. [**Month (only) 60**] need
   anti-psychotic prn. Will only be able to take home meds if can take
   them crushed or in solution.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);